US08580146B2
Lithium aluminum hydride (2.7 g) was suspended in THF (200 ml). Ethyl 4-triisopropylsilyloxycyclohexylpropionate (s40) (21.3 g) was added dropwise to the suspension in the temperature range of −20° C. to −10° C., and the mixture was stirred at the same temperature range for 2 hours. After the completion of reaction had been confirmed by means of GC analysis, ethyl acetate and a saturated aqueous solution of ammonia were added successively to the reaction mixture under ice-cooling, and the deposits were removed by filtration through Celite. The filtrate was extracted with ethyl acetate. The combined organic layers were washed successively with water and brine, and dried over anhydrous magnesium sulfate. Distillation of the solvent under reduced pressure gave 4-triisopropylsilyloxycyclohexyl propanol (s41) (18.3 g). The yield based on the compound (s40) was 97.40.

reactant | Lithium aluminum hydride | 2.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ethyl 4-triisopropylsilyloxycyclohexylpropionate | 21.3 g | C(C)(C)[Si](OC1CCC(CC1)C(C(=O)OCC)C)(C(C)C)C(C)C | C20H40O3Si
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonia | N | H3N
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-triisopropylsilyloxycyclohexyl propanol | 18.3 g | C(C)(C)[Si](OC1CCC(CC1)C(CC)O)(C(C)C)C(C)C | C18H38O2Si
